Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors
 
Attending: ___.
 
Chief Complaint:
Palpitations, chest pain and fatigue
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Dr. ___ is a ___ year-old man with a history of CAD s/p RCA 
and circumflex stents, hypertension, dyslipidemia, and severe 
GERD who presents with chest pain.  
.  
He was in his USOH until one month ago when he began 
experiencing vague chest pain symptoms, which he described as 
"musculoskeletal," often occuring while he exercised or lifted 
weights but relieved by applying tactile pressure, and 
"gastrointestinal," with bloating and worsening GERD. He also 
felt that his heart rate was fater (but regular), usually in the 
___ at his baseline but more often in the ___ during this 
period. His symptoms do not worsen with exertion, e.g. when he 
runs faster on the elliptical machine, his symptoms remain 
unchanged, but he was concerned that they were cardiac in 
nature, as his initial presentation with CAD occurred with 
similarly vague symptoms. He denied fevers, cough, nausea, 
diaphoresis, and dyspnea. He also reports traveling heavily over 
the last month, including to ___, and having fatigue related 
to that. He presented to his cardiologist and had an EKG and 
ECHO, both of which were normal. He did have an unchanged stress 
ECHO a several weeks ago.  
However, during grand rounds on ___ morning, he felt his 
heart racing at ___nd was worried about a cardaic 
origin and presented to the ED.  
In the ED, initial VS: 98.5 96 157/80 20 97. EKG was unchanged 
and DDimer was elevated but chest CTA was neg for PE; however, 
it did show RUL infiltrates. He was treated with aspirin and 
levofloxacin. Per report, his cardiologist recommended admission 
for stress ECHO tomorrow.  
.  
On the floor, he is chest pain free and typing on his laptop.  
.  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.  
Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope.  

 
Past Medical History:
Coronary artery disease s/p RCA and circumflex stents  
Dyslipidemia  
Hypertension  
BPH  
GERD  
Cholecystectomy ___  

 
Social History:
___
Family History:
___
 
Physical Exam:
Vital signs: Temperature 98 degree F, blood pressure 135/80 
heart rate 79 respiratory rate 18 oxigen saturation 96% on room 
air.  
Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. No xanthalesma.  
Neck: Supple with no JVD  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness.  
Ext: No c/c/e.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas
 
Pertinent Results:
Admission labs:
___ 04:25PM BLOOD WBC-13.1*# RBC-4.70 Hgb-13.1* Hct-38.7* 
MCV-82 MCH-27.9 MCHC-33.9 RDW-13.5 Plt ___
___ 04:25PM BLOOD Neuts-79.9* Lymphs-15.9* Monos-3.4 
Eos-0.4 Baso-0.4
___ 04:25PM BLOOD ___ PTT-27.4 ___
___ 04:25PM BLOOD Glucose-102* UreaN-28* Creat-1.0 Na-141 
K-3.6 Cl-103 HCO3-29 AnGap-13
___ 08:32PM BLOOD Lactate-1.3
___ 05:11PM BLOOD D-Dimer-686*
___ 07:20AM BLOOD WBC-8.7 RBC-4.60 Hgb-12.8* Hct-38.1* 
MCV-83 MCH-27.9 MCHC-33.6 RDW-13.6 Plt ___
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD Glucose-94 UreaN-32* Creat-1.1 Na-143 
K-4.0 Cl-105 HCO3-30 AnGap-12
___ 07:20AM BLOOD CK(CPK)-65
___ 07:20AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 07:20AM BLOOD Calcium-9.1 Phos-2.8 Mg-1.7
.
Discharge labs:
___ 07:05AM BLOOD WBC-7.2 RBC-4.58* Hgb-12.9* Hct-37.9* 
MCV-83 MCH-28.2 MCHC-34.0 RDW-13.2 Plt ___
___ 07:05AM BLOOD Plt ___
___ 07:05AM BLOOD Glucose-105* UreaN-21* Creat-1.1 Na-141 
K-3.9 Cl-106 HCO3-30 AnGap-9
___ 07:05AM BLOOD Mg-1.8
___ 07:20AM BLOOD TSH-2.0
___ 07:05AM BLOOD WBC-7.2 RBC-4.58* Hgb-12.9* Hct-37.9* 
MCV-83 MCH-28.2 MCHC-34.0 RDW-13.2 Plt ___
___ 07:05AM BLOOD WBC-7.2 RBC-4.58* Hgb-12.9* Hct-37.9* 
MCV-83 MCH-28.2 MCHC-34.0 RDW-13.2 Plt ___
___ 07:05AM BLOOD WBC-7.2 RBC-4.58* Hgb-12.9* Hct-37.9* 
MCV-83 MCH-28.2 MCHC-34.0 RDW-13.2 Plt ___
.
___ CXR:
IMPRESSION:  
1. Prominence of the right hilar region likely reflects tortuous 
ascending 
aorta. If acute process is suspected such as a dissection, 
cross-sectional 
imaging can be obtained. 
2. Right greater than left bilateral atalectasis. An underlying 
consolidation cannot be excluded 
.
___ CTA:
1. Patchy areas of ground-glass opacity involving the entire 
right lung, with upper lobe predominance, is most compatible 
with an infectious or inflammatory process. 
2. No pulmonary embolism detected to the subsegmental levels. 
3. No dissection. 
.
___ Stress-test with perfusion imaging:
INTERPRETATION: ___ yo man was referred to evaluate an atypical 
chest 
discomfort. The patient completed 10.25 minutes of ___ 
protocol 
representing a very good exercise tolerance; ~ ___ METS. The 
exercise 
test was stopped due to fatigue. During exercise, the patient 
reported a 
left-sided chest discomfort. Initially, the discomfort was 
reported 
only with inspiration. As exercise continued, the discomfort was 
more 
constant; ___. At peak exercise, the patient reported a slight 
decrease in the left-sided discomfort; ___. In recovery, the 
left-sided chest discomfort would vary between ___, and 
reportedly 
improved when the patient pressed in the area. No significant ST 

segment changes were noted with exercise or during recovery. The 
rhythm 
was sinus with rare isolated APDs and VPDs noted. The heart rate 
and 
blood pressure response with exercise was appropriate. 
IMPRESSION: Very good functional exercise capacity. Atypical 
symptoms 
in the absence of ST segment changes at a high level of 
exercise. 
Normal hemodynamic response to exercise. Nuclear report sent 
separately. 
.
Final reading of perfusion imaging pending, a preliminary 
reading did not show perfusion abnormalities.
 
Brief Hospital Course:
Dr. ___ is a ___ year-old man with a history of CAD s/p RCA 
and circumflex stents, hypertension, dyslipidemia, and severe 
GERD who presents with palpitations and chest pain.  
.  
Atypical chest pain: We ruled out acute coronary syndromes with 
serial negative cardiac enzymes and negative EKG. Pulmonary 
embolism was excluded with a contrast-enhanced CAT-scan of the 
chest. Despite ground glass opacity seen on CTA, patient did not 
have any clinical symptoms of pneumonia and was not treated with 
antibiotic course. Stress testing showed no perfusion 
abnormalities and no EKG-changes in a preliminary reading. The 
final report is pending, to be followed up by your outpatient 
cardiologist
.  
GERD: The patient states that he had recent episodes of reflux 
with epigastric pain, taste of acid in the mouth and aspiration. 
We continued PPI and suggest further outpatient follow up with 
gastroenterology.
.  
HTN: We did not see need for adjustment of the patient's 
hypertensive regimen.
.  
BPH: We continued doxazosin.  

 
Medications on Admission:
omeprazole 40 mg bid  
cardizem 160 mg daily  
atorvostatin 40 mg daily  
doxazosin 1 mg daily  
folic 2 daily  
vitamin D 1000u daily  
niacin 500 daily  
aspirin  

 
Discharge Medications:
1. Niacin 500 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
2. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
3. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Folic Acid 1 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

5. Doxazosin 1 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
6. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: 2.5 Tablets 
PO DAILY (Daily).  
7. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
8. Nitrostat 0.3 mg Tablet, Sublingual Sig: One (1)  Sublingual 
once a day: Take up to 3 as needed for chest pain, if 3 tabs do 
not resolve your CP you should go the the ER.
Disp:*30 tablets* Refills:*2*
9. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Atypical angina
- Coronary artery disease status post right coronary artery- and 
circumflex artery-stents  
- Dyslipidemia  
- Hypertension  
- Benign Prostate Hypertrophy
- Gastroesophageal reflux disease  
- Cholecystectomy ___  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for palpitations and atypical chest pain. We 
ruled out myocardial infarction and acute ischemia. You had an 
exercise stress test with perfusion images that was negative for 
any signs of blockage of the coronary arteries. 
.
We have made no changes to your medications
 
Followup Instructions:
___